US07307084B2
31. 5-Hydroxymethyl-2,3-dimethyl-8-phenyl-6,7,8,9tetrahydro-3H-imidazo[4,5-h]quinoline
To a suspension of 0.2 g (5.3 mmol) lithium aluminium hydride in 15 ml tetrahydrofuran was slowly added a solution of 1.0 g (2.9 mmol) ethyl 2,3-dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5-h]quinoline-5-carboxylate in 5 ml tetrahydrofuran. After 2 h, the reaction mixture was carefully hydrolyzed with 0.1 ml water, 0.2 ml 6N aqueous potassium hydroxide and 0.1 ml water. Anhydrous magnesium sulfate was added and the mixture was stirred 1 h. After filtration through celite, the filtrate was evaporated and the residue purified by column chromatography on silica gel (dichloromethane/methanol=13:1). Crystallization from acetone yielded 0.28 g (32%) of the title compound as a colourness solid. m.p. 253-254° C.

reactant | lithium aluminium hydride | 5.3 mmol, 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2,3-dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5-h]quinoline-5-carboxylate | 2.9 mmol, 1.0 g | CC1=NC2=C(C=C(C=3CCC(NC23)C2=CC=CC=C2)C(=O)OCC)N1C | C21H23N3O2
reactant | potassium hydroxide | 6N, 0.2 ml | [OH-].[K+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 0.1 ml | O | H2O
solvent | water | 0.1 ml | O | H2O
product | 5-Hydroxymethyl-2,3-dimethyl-8-phenyl-6,7,8,9tetrahydro-3H-imidazo[4,5-h]quinoline | 0.28 g, 32% | OCC=1C=2CCC(NC2C2=C(C1)N(C(=N2)C)C)C2=CC=CC=C2 | C19H21N3O
